US05959107
N2-Benzyl-4-(5-isoquinolylsulfanyl)-1,2-benzenediamine 730 mg (2.0 mmol) was dissolved in 4N hydrochloric acid 20 ml, acetic acid 0.3 ml was added, and the mixture was heated and refluxed overnight. 40% sodium chloride was added to obtain an alkaline solution, and the solution was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform: acetone=5:1), and 1-benzyl-6-(5-isoquinolylsulfanyl)-2-methyl-1H-benzo[d]imidazole 330 mg (43.3%) was obtained.

reactant | N2-Benzyl-4-(5-isoquinolylsulfanyl)-1,2-benzenediamine | 2.0 mmol, 730 mg | C(C1=CC=CC=C1)NC=1C(=CC=C(C1)SC1=C2C=CN=CC2=CC=C1)N | C22H19N3S
reactant | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | hydrochloric acid | 4N, 20 ml | Cl | ClH
product | 1-benzyl-6-(5-isoquinolylsulfanyl)-2-methyl-1H-benzo[d]imidazole | 330 mg, 43.3% | C(C1=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)SC2=C1C=CN=CC1=CC=C2)C | C24H19N3S
